US03987047
1,2,4,5-Tetrahydro-5,11-dimethyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2,4,5-tetrahydro-5,11-dimethyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-5,11-dimethyl-3H-azepino[4,5-b]quinoline | CC1CNCCC=2C1=NC=1C=CC=CC1C2C | C15H18N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-5,11-dimethyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 84% | Cl.C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)C | InChI=1S/C18H22N2O2.ClH/c1-4-22-18(21)20-10-9-15-13(3)14-7-5-6-8-16(14)19-17(15)12(2)11-20;/h5-8,12H,4,9-11H2,1-3H3;1H
